US04202990
The reaction was performed for 3 hours in the same manner as in Example 2 except adding 0.48 g (0.002 mole) of calcium acetylacetonate and 0.2 g of hydroquinone monomethyl ether instead of zirconium acetyl acetonate and 0.28 g of hydroquinone monomethyl ether. The results were a 99.1% conversion of n-butanol and 98.5% yield of n-butylacrylate. This ester was recovered in a 97.5% yield by direct distillation.

reactant | calcium acetylacetonate | 0.002 mole, 0.48 g | CC(=CC(=O)C)[O-].CC(=CC(=O)C)[O-].[Ca+2]
reactant | hydroquinone monomethyl ether | 0.2 g | COC1=CC=C(O)C=C1 | C7H8O2
reactant | hydroquinone monomethyl ether | 0.28 g | COC1=CC=C(O)C=C1 | C7H8O2
solvent | n-butanol | C(CCC)O | C4H10O
product | n-butylacrylate | 98.5% yield | C(CCC)OC(C=C)=O | C7H12O2
